US04035363
To 20 ml. of dioxane are dissolved 5 g. of orthomethoxyphenol, 5 g. of para-formaldehyde and 12.6 g. of para-chlorophenethylamine. The solution is heated on reflux for 9.5 hours and distilled to remove the solvent. The residue is purified by column chromatography on silica gel with a mixture of acetone and benezene (1:4). Recrystallization of the resultant crude crystals from methanol yields 3-(4-chlorophenethyl)-8-methoxy-3,4-dihydro-2H-1,3-benzoxazine as colorless needles melting at 87-88° C. Yield: 4 g.

reactant | orthomethoxyphenol | COC1=C(C=CC=C1)O | C7H8O2
reactant | para-formaldehyde | C=O | CH2O
reactant | para-chlorophenethylamine | ClC1=CC=C(CCN)C=C1 | C8H10ClN
reactant | dioxane | O1CCOCC1 | C4H8O2
product | 3-(4-chlorophenethyl)-8-methoxy-3,4-dihydro-2H-1,3-benzoxazine | ClC1=CC=C(CCN2COC3=C(C2)C=CC=C3OC)C=C1 | C17H18ClNO2
